US08957203B2
Step 4: Preparation of tert-butyl ((3R)-1-((2S,4R)-2-(((1R,2S)-1-((cyclopropylsulfonyl)carbamoyl)-2-vinylcyclopropyl)carbamoyl)-4-((4-ethoxyisoquinolin-1-yl)oxy)pyrrolidin-1-yl)-3,5-dimethyl-1-oxonon-8-en-2-yl)carbamate
To a solution of (2S,4R)-1-((3R)-2-((tert-butoxycarbonyl)amino)-3,5-dimethylnon-8-enoyl)-4-((4-ethoxyisoquinolin-1-yl)oxy)pyrrolidine-2-carboxylic acid (600 mg, 1.0 mmole) in dichloromethane (10 mL) was added DIPEA (0.87 mL, 5 mmole), HATU (380 mg, 1.0 mmole) followed by (1R,2S)-1-amino-N-(cyclopropylsulfonyl)-2-vinylcyclopropanecarboxamide hydrochloride (prepared according to the procedure described in WO 03/099274) (457 mg, 1.1 mmole) at room temperature. The reaction mixture was stirred at room temperature for 2 h. The reaction mass was diluted with DCM and washed with water. The organic layer was dried over anhydrous Na2SO4 and concentrated under reduced pressure to get crude compound. The crude compound was purified by silica gel chromatography to get desired product tert-butyl ((3R)-1-((2S,4R)-2-(((1R,2S)-1-((cyclopropylsulfonyl)carbamoyl)-2-vinylcyclopropyl)carbamoyl)-4-((4-ethoxyisoquinolin-1-yl)oxy)pyrrolidin-1-yl)-3,5-dimethyl-1-oxonon-8-en-2-yl)carbamate (500 mg, 61%) as off-white solid. MS: MS m/z 797.2 (M++1).

reactant | (2S,4R)-1-((3R)-2-((tert-butoxycarbonyl)amino)-3,5-dimethylnon-8-enoyl)-4-((4-ethoxyisoquinolin-1-yl)oxy)pyrrolidine-2-carboxylic acid | 1.0 mmole, 600 mg | C(C)(C)(C)OC(=O)NC(C(=O)N1[C@@H](C[C@H](C1)OC1=NC=C(C2=CC=CC=C12)OCC)C(=O)O)[C@@H](CC(CCC=C)C)C | C32H45N3O7
reactant | DIPEA | 5 mmole, 0.87 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 1.0 mmole, 380 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (1R,2S)-1-amino-N-(cyclopropylsulfonyl)-2-vinylcyclopropanecarboxamide hydrochloride | Cl.N[C@]1([C@@H](C1)C=C)C(=O)NS(=O)(=O)C1CC1
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | tert-butyl ((3R)-1-((2S,4R)-2-(((1R,2S)-1-((cyclopropylsulfonyl)carbamoyl)-2-vinylcyclopropyl)carbamoyl)-4-((4-ethoxyisoquinolin-1-yl)oxy)pyrrolidin-1-yl)-3,5-dimethyl-1-oxonon-8-en-2-yl)carbamate | 500 mg, 61% | C1(CC1)S(=O)(=O)NC(=O)[C@@]1([C@@H](C1)C=C)NC(=O)[C@H]1N(C[C@@H](C1)OC1=NC=C(C2=CC=CC=C12)OCC)C(C([C@@H](CC(CCC=C)C)C)NC(OC(C)(C)C)=O)=O | C41H57N5O9S
